US09034880B2
2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (200 mg, 1 mmol), 2-vinylpyridine (0.26 mg, 2.5 mmol), sodium (5 mg, 0.21 mmol) and CuSO4 (5 mg, catalytic) in ethanol (4 mL) was at 120° C. for 16 h to obtain 60 mg of 2,3,4,5-tetrahydro-2-methyl-5-(2-(pyridin-2-yl)ethyl)-1H-pyrido[4,3-b]indole as a trifluoroacetate salt after purification on reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | 2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 1 mmol, 200 mg | CN1CC2=C(NC=3C=CC=CC23)CC1 | C12H14N2
reactant | 2-vinylpyridine | 2.5 mmol, 0.26 mg | C(=C)C1=NC=CC=C1 | C7H7N
reactant | sodium | 0.21 mmol, 5 mg | [Na] | Na
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | CuSO4 | 5 mg | [O-]S(=O)(=O)[O-].[Cu+2]
product | 2,3,4,5-tetrahydro-2-methyl-5-(2-(pyridin-2-yl)ethyl)-1H-pyrido[4,3-b]indole | 60 mg | CN1CC2=C(N(C=3C=CC=CC23)CCC2=NC=CC=C2)CC1 | C19H21N3
